US09303000B2
Synthesis of (Z)-3-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylohydrazide
In a 25-mL, 3N round-bottomed flask equipped with nitrogen inlet, and a rubber septum, (isobutyl carbonic) (Z)-3-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic anhydride was cooled at 0° C. and added Hydrazine hydrate (0.372 g, 5.7 eq.). Reaction mixture was stirred at 0° C. for 1 h. The progress of the reaction was followed by TLC analysis on silica gel with 50% EtOAc-hexane as mobile phase. SM Rf=0.6 and Product Rf=0.4. Reaction mixture was poured into ice water (5 mL) and extracted with EtOAc (3×5 mL). The combined organic layers were washed with Brine solution (3×5 mL), dried over MgSO4, filtered, and concentrated by rotary evaporation (25° C., 20 mmHg) to afford 0.29 g of crude compound which was used for next step without any purification.

reactant | (Z)-3-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic anhydride | C(C)(C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)OC(\C=C/N1N=C(N=C1)C1=CC(=CC(=C1)C(F)(F)F)OC(C)C)=O | C30H26F6N6O5
reactant | Hydrazine hydrate | 0.372 g, 5.7 eq. | O.NN
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (Z)-3-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylohydrazide | 0.29 g | C(C)(C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NN | C15H16F3N5O2
